US04031226
A mixture of 8 parts of 4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride, 120 parts of methanol and 25 parts of water is hydrogenated at normal pressure and at room temperature with 5 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from methanol. The product is filtered off and recrystallized from ethanol, yielding 1 part of 2-amino-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}benzamide hydrochloride hydrate; mp. 223.5° C.

reactant | 4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride | Cl.FC1=CC(=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=C(C=C3)F)=O)CC2)C=C1)[N+](=O)[O-]
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | water | O | H2O
product | 2-amino-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}benzamide hydrochloride hydrate | O.Cl.NC1=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=C(C=C3)F)=O)CC2)C=CC(=C1)F | InChI=1S/C22H25F2N5O2.ClH.H2O/c23-15-1-4-17(5-2-15)29-14-27-21(31)22(29)7-10-28(11-8-22)12-9-26-20(30)18-6-3-16(24)13-19(18)25;;/h1-6,13H,7-12,14,25H2,(H,26,30)(H,27,31);1H;1H2
